US08207147B2
Preparation 18: 4-Thiocarbamoylmethoxypiperidine-1-carboxylic acid tert-butyl ester
A solution of 4-carbamoylmethoxypiperidine-1-carboxylic acid tert-butyl ester (Preparation 13, 67.5 mg, 260 μmol) and Lawesson's reagent (116 mg, 287 μmol) in dimethoxyethane (1.5 ml) was stirred at rt for 24 h. The solvent was evaporated and the residue purified by flash chromatography (5% MeOH in CH2Cl2) to afford the title compound: δH (CDCl3) 1.50 (9H, s), 1.55-1.63 (2H, m), 1.88-1.95 (2H, m), 3.12 (2H, ddd), 3.59-3.66 (1H, m), 3.79-3.87 (2H, m), 4.40, (2H, s), 7.65 (1H, bs), 8.04 (1H, bs).

reactant | 4-carbamoylmethoxypiperidine-1-carboxylic acid tert-butyl ester | 260 μmol, 67.5 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)OCC(N)=O | C12H22N2O4
reactant | Lawesson's reagent | 287 μmol, 116 mg | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
solvent | dimethoxyethane | 1.5 ml | C(OC)COC | C4H10O2
product | 4-Thiocarbamoylmethoxypiperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)OCC(N)=S | C12H22N2O3S
